US09119868B2
A suspension of 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-(N-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)benzofuran-3-carboxamide (152 mg, 0.251 mmol), polymer-supported benzeneboronic acid (480 mg, 1.255 mmol), and aqueous 5N HCl (0.35 mL, 1.757 mmol) in tetrahydrofuran (15 mL) was stirred at room temperature for 48 hours. The solution was filtered, concentrated to dryness, and purified by reverse phase HPLC to afford 4-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)phenylboronic acid (45 mg, 0.086 mmol, 34% yield) as a white solid. 1H NMR (METHANOL-d4) δ: 7.98 (d, 1H), 7.96 (d, 1H), 7.87 (S, 1H), 7.66 (d, 2H), 7.46 (d, 2H), 7.32-7.26 (m, 3H), 3.33 (s, 3H), 2.99 (s, 3H), 2.22-2.18 (m, 1H), 1.10-0.37 (m, 4H). LCMS (m/z, ES+)=523 (M+H+)

reactant | 5-cyclopropyl-2-(4-fluorophenyl)-N-methyl-6-(N-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)benzofuran-3-carboxamide | 0.251 mmol, 152 mg | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)N(S(=O)(=O)C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C32H34BFN2O6S
reactant | benzeneboronic acid | 1.255 mmol, 480 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | HCl | 1.757 mmol, 5N, 0.35 mL | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 4-(N-(5-cyclopropyl-2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-6-yl)methylsulfonamido)phenylboronic acid | 0.086 mmol, 45 mg, 34% yield | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)N(S(=O)(=O)C)C1=CC=C(C=C1)B(O)O | C26H24BFN2O6S
